2150-08-10 07:34:00 Physician Resident Progress Note
Chief Complaint: septic shock, s/p diverting colostomy [**2-21**]
   enterovesicular fistula
   24 Hour Events:
 MULTI LUMEN - START [**2150-8-9**] 07:30 PM
 OR SENT - At [**2150-8-9**] 08:30 PM
 OR RECEIVED - At [**2150-8-9**] 11:30 PM
 INVASIVE VENTILATION - START [**2150-8-9**] 11:30 PM
 ARTERIAL LINE - START [**2150-8-9**] 11:32 PM
   -Pt underwent open laparotomy with diverting colostomy and irrigation
   to repair open anastomosis of sigmoid colon.
   -Serial bladder pressures: around 15
   -Pt received one unit of pRBC overnight.
   -Low UOP but stable.
   -IVF total 10 L in ICU (14 L in 24 hrs).
   -Elevated CVP 15-18; low MAP 55-60
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-8-10**] 01:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-10**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 65 (63 - 82) bpm
   BP: 93/51(61) {93/51(61) - 118/60(70)} mmHg
   RR: 16 (16 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 15 (8 - 17)mmHg
   Bladder pressure: 15 (15 - 19) mmHg
                               Total In:
                                                                  4,500 mL
                                                                  8,853 mL
   PO:
                               TF:
   IVF:
                                                                  4,000 mL
                                                                  8,478 mL
   Blood products:
                                                                    500 mL
                                                                    375 mL
   Total out:
                                                                    200 mL
                                                                    317 mL
   Urine:
                                                                     70 mL
                                                                     80 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   237 mL
   Balance:
                                                                  4,300 mL
                                                                  8,536 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.34/39/116/18/-4
   Ve: 8.9 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Gen: NAD, sedated,
   CV: RRR, 2/6 systolic murmur
   Lungs: CTA anteriorly, on ventilator
   Abd: obese, distended, no bowel sounds,  minimal transudate on
   dressing, no ostomy output
   Ext: UE warm, 2+ radial pulses, LE cool 2+ pedal pulses, 1+ edema
   diffusely
   Labs / Radiology
   483 K/uL
   9.9 g/dL
   124 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.7 mEq/L
   20 mg/dL
   112 mEq/L
   138 mEq/L
   29.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2150-8-9**]  07:30 PM
                             [**2150-8-9**]  09:31 PM
                             [**2150-8-10**]  12:15 AM
                             [**2150-8-10**]  12:49 AM
                             [**2150-8-10**]  02:36 AM
                             [**2150-8-10**]  02:58 AM
                             [**2150-8-10**]  06:00 AM
                             [**2150-8-10**]  06:14 AM
   WBC
   10.0
   9.2
   11.5
   Hct
   32.3
   31
   27.9
   23.9
   29.9
   Plt
   [**Telephone/Fax (3) 3727**]
   Cr
   1.2
   1.4
   1.7
   TCO2
   22
   21
   21
   22
   Glucose
   136
   134
   135
   124
   Other labs: PT / PTT / INR:16.9/37.3/1.5, ALT / AST:[**10-30**], Alk Phos / T
   Bili:40/1.3, Differential-Neuts:81.0 %, Band:15.0 %, Lymph:1.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Ca++:6.5 mg/dL, Mg++:2.1
   mg/dL, PO4:5.4 mg/dL
   [**2150-8-10**] Blood cx: pending
   [**2150-8-8**] Urine cx:  pseudomonas aeruginosa
   [**2150-8-9**] Peritoneal wound swab cx: (prelim) GNR and GPR
   [**2150-8-9**] C. diff toxin: pending
   [**2150-8-9**] CXR:  RIJ tip projects over the caval-atrial junction. New LLL
   linear atelectasis. R subdiaphragmatic free air, c/w recent CT and
   post-op status.
   Assessment and Plan
   55yo man POD #6 s/p colovesical fistula repair here with fever,
   hypotension, elevated lactate, and stool in foley.  Presented to ICU
   for possible urosepsis vs anastomotic leak.  Pt went to OR and
   underwent diverting colostomy and irrigation to treat open anastomosis.
   # Sepsis: has source (intraperitoneal feces) and SIRS criteria (RR, HR,
   temp, WBC).  Aggressively resuscitated pt received estimated 14L in 24
   hours.
   - CVL to assess CVP and SVO2.  Goal CVP 20-22 per surgery recs.
   - titrate levophed to maintain MAP >65.
   - [**2150-8-10**] SvO2: 61; indicates suboptimal cardiac output.  Goal SvO2
   >70.  Consider starting ionotrope (dopamine gtt) if continued trouble
   maintaining goal CVP and MAP.
   - treat infection with meropenem (for likely resistent pseudomonas) and
   vancomycin (for prior hospitalizations and possible wound involvement)
   - monitor UOP and CVP
   # Postop resp management: patient will return from OR intubated.  Will
   provide vent support with AC w low Vt in setting of bowel surgery.
   - use propofol for sedation
   - famotidine
   - mouthcare and HOB elevation
   # Cover broadly: d/c zosyn and replace with meropenem per ID recs,
   continue vanco for bowel/skin flora.
   - will monitor bladder pressures postop. to screen for abdominal
   compartment syndrome. Goal pressure<20.  If elevating, will notify
   surgery.
   .# Anemia: will trend hct.  Has been 28-32 last few days.  Will keep
   hct>25 in setting of OR
   - active T and S
   - post-op Hct decreased to 23.9 most likely dilutional.  Pt was given 1
   unit pRBC
   # HTN: will hold atenolol in setting of possible HD instability
   # DM: HISS periop
   # Hyperchol: statin
   # Pain control: currently on propofol will change to fentanyl/versed
   given extended timeline for mechanical ventilation.
   .# Proph: boots, HISS, mouth care, H2blocker
   .# FEN: NPO with IVF
   # Access: 2 PIVs, CVL, aline.
   # Code: full, discussed
   # Contact: wife HCP [**Telephone/Fax (1) 3722**]
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2150-8-9**] 06:45 PM
   20 Gauge - [**2150-8-9**] 06:45 PM
   Multi Lumen - [**2150-8-9**] 07:30 PM
   Arterial Line - [**2150-8-9**] 11:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-08-10 09:05:00 Physician Attending Progress Note
Chief Complaint: SEPSIS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Anastamotic leak addressed at EXP LAP with diverting colostomy
   performed and abdominal wash out.
   ZOSYN started for ABX Rx
   10 liters IVF given O/N in ICU (14 liters in past 24 hours)
   CVP Maintained at >18 and Levophed required for BP support
   24 Hour Events:
 MULTI LUMEN - START [**2150-8-9**] 07:30 PM
 OR SENT - At [**2150-8-9**] 08:30 PM
 OR RECEIVED - At [**2150-8-9**] 11:30 PM
 INVASIVE VENTILATION - START [**2150-8-9**] 11:30 PM
 ARTERIAL LINE - START [**2150-8-9**] 11:32 PM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-8-10**] 07:58 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-8-10**] 07:58 AM
   Heparin Sodium (Prophylaxis) - [**2150-8-10**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99.9F
   Cardiovascular: Tachycardia
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-8-10**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 67 (63 - 82) bpm
   BP: 97/55(71) {75/33(50) - 134/55(76)} mmHg
   RR: 16 (16 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 18 (8 - 18)mmHg
   CO/CI (Fick): (5.5 L/min) / (2.6 L/min/m2)
   Bladder pressure: 15 (15 - 19) mmHg
   Mixed Venous O2% Sat: 61 - 61
                              Total In:
                                                                  4,500 mL
                                                                 11,042 mL
   PO:
                              TF:
   IVF:
                                                                  4,000 mL
                                                                 10,667 mL
   Blood products:
                                                                    500 mL
                                                                    375 mL
   Total out:
                                                                    200 mL
                                                                    333 mL
   Urine:
                                                                     70 mL
                                                                     96 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   237 mL
   Balance:
                                                                  4,300 mL
                                                                 10,709 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 29 cmH2O
   SpO2: 97%
   ABG: 7.34/39/116/18/-4
   Ve: 9 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Eyes / Conjunctiva: PERRL, minimally reactive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
CVP trace with clear
   A-wave, V-wave and true pressure of 20 this morning
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Distended, BS Absent
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed, Pupils equally reactive.
   Labs / Radiology
   9.9 g/dL
   483 K/uL
   124 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.7 mEq/L
   20 mg/dL
   112 mEq/L
   138 mEq/L
   29.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2150-8-9**]  07:30 PM
                             [**2150-8-9**]  09:31 PM
                             [**2150-8-10**]  12:15 AM
                             [**2150-8-10**]  12:49 AM
                             [**2150-8-10**]  02:36 AM
                             [**2150-8-10**]  02:58 AM
                             [**2150-8-10**]  06:00 AM
                             [**2150-8-10**]  06:14 AM
   WBC
   10.0
   9.2
   11.5
   Hct
   32.3
   31
   27.9
   23.9
   29.9
   Plt
   [**Telephone/Fax (3) 3727**]
   Cr
   1.2
   1.4
   1.7
   TCO2
   22
   21
   21
   22
   Glucose
   136
   134
   135
   124
   Other labs: PT / PTT / INR:16.9/37.3/1.5, ALT / AST:[**10-30**], Alk Phos / T
   Bili:40/1.3, Differential-Neuts:81.0 %, Band:15.0 %, Lymph:1.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Ca++:6.5 mg/dL, Mg++:2.1
   mg/dL, PO4:5.4 mg/dL
   Fluid analysis / Other labs: 7.34/39/116
   SVO2-61
   Imaging: CXR--Lower lung volumes, Right IJ into RA, minimal change in
   pulmonary edema
   Assessment and Plan
   55 yo male with history of diverticulitis and evolution of
   entero-vesicular fistula now s/p repair 7d ago but hosp course c/b
   tachypnea and fever with concern for urosepsis raised.  Yesterday,
   however, anastamotic leak raised as possibility and at EXP LAP this was
   confirmed and diverting colostomy performed with abdominal wash out.
   He now has had reasonable volume support with blood and fluids with CVP
   approaching 20 but will required both continued volume support and
   pressors as needed in addition. HCT stabilized at 30
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   -Urosepsis raised as possiblity but peritoneal leak identified in rapid
   move to exploratory laparotomy yesterday with wash out and ostomy
   -Vanco/Zosyn
   -Levophed for residual hypotension
   -Bolus with IVF to maintain CVP in 18-20 range acutely
   -PRBC for significant decline in HCT
   -Will continue to discuss closely with surgery
   -Will check ECHO to eval cardiac function to consider pressor choice
   should fluild alone prove incomplete
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   -Now S/P Exp Lab with diverting colostomy performed
   *Acute Respiratory Failure-
   -Will need increase in PEEP to 10 for any evidence of desaturation
to 8
   now
   -Continue with FIO2 at 0.4
   -Will take continued full support until resolution of acute insult
   achieved
   -CMV for now
   *Acute Renal Failure-
   -Oliguria
   -Will continue to utilize bladder pressure meaurements to evaluate
   possible contribution from Abdominal Compartment Syndrome to renal
   dysfunction
   -Likely ATN
   -Maintain MAP
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition: NPO
will have to consider TPN over time depending on
   response
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2150-8-9**] 06:45 PM
   20 Gauge - [**2150-8-9**] 06:45 PM
   Multi Lumen - [**2150-8-9**] 07:30 PM
   Arterial Line - [**2150-8-9**] 11:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Prophylaxis
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2150-08-11 06:53:00 Physician Resident Progress Note
Chief Complaint: septic shock, s/p laparatomy w/ diverting colostomy
   [**2150-8-9**], on ventilator
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2150-8-10**] 10:57 AM results pending
   Discontinued pressors.
   Febrile this am (100.8)
   Pt received 1 L this am (0600) due to decreased MAP.
   UOP has improved.
   [**2150-8-10**] Bladder pressure: 12
   [**Known lastname **] fluid balance +18 L in ICU
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-8-10**] 07:58 AM
   Vancomycin - [**2150-8-10**] 08:30 AM
   Meropenem - [**2150-8-11**] 12:04 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-8-10**] 07:58 AM
   Heparin Sodium (Prophylaxis) - [**2150-8-10**] 10:04 PM
   Fentanyl - [**2150-8-11**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-11**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 79 (67 - 87) bpm
   BP: 102/60(70) {83/47(64) - 135/61(86)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 8 (6 - 318)mmHg
   CO/CI (Fick): (7.1 L/min) / (3.4 L/min/m2)
   Bladder pressure: 15 (15 - 17) mmHg
   Mixed Venous O2% Sat: 61 - 64
   Total In:
                                                                 14,286 mL
                                                                  1,201 mL
   PO:
   TF:
   IVF:
                                                                 13,411 mL
                                                                  1,201 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                  1,369 mL
                                                                    475 mL
   Urine:
                                                                    537 mL
                                                                    235 mL
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                    432 mL
                                                                     40 mL
   Balance:
                                                                 12,917 mL
                                                                    726 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: ///20/
   Ve: 12 L/min
   Physical Examination
   Gen: NAD, asleep, easy to waken, admits to abdominal pain
   CV: RRR, 2/4 systolic murmur
   Lungs: on vent., decreased bs at lateral bases., posterior lung exam
   deferred
   Abd: dressing c/d/i, ostomy, serosanguineous output, decreased bs
   Ext: warm, dry, [**1-21**]+ edema diffusely, 2+ radial and pedal pulses
   Labs / Radiology
   372 K/uL
   8.5 g/dL
   85 mg/dL
   3.0 mg/dL
   20 mEq/L
   4.5 mEq/L
   29 mg/dL
   107 mEq/L
   137 mEq/L
   25.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2150-8-9**]  07:30 PM
                             [**2150-8-9**]  09:31 PM
                             [**2150-8-10**]  12:15 AM
                             [**2150-8-10**]  12:49 AM
                             [**2150-8-10**]  02:36 AM
                             [**2150-8-10**]  02:58 AM
                             [**2150-8-10**]  06:00 AM
                             [**2150-8-10**]  06:14 AM
                             [**2150-8-10**]  02:12 PM
                             [**2150-8-11**]  05:06 AM
   WBC
   10.0
   9.2
   11.5
   8.1
   10.0
   Hct
   32.3
   31
   27.9
   23.9
   29.9
   27.7
   25.8
   Plt
   [**Telephone/Fax (3) 3749**]92
   372
   Cr
   1.2
   1.4
   1.7
   2.2
   3.0
   TCO2
   22
   21
   21
   22
   Glucose
   136
   134
   135
   124
   115
   85
   Other labs: PT / PTT / INR:15.5/39.1/1.4, ALT / AST:[**10-10**], Alk Phos / T
   Bili:41/0.6, Differential-Neuts:70.0 %, Band:14.0 %, Lymph:10.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL,
   LDH:140 IU/L, Ca++:6.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   7/20-21/08  Lactate: 4.2-1.6
   [**2150-8-10**] blood cx: pending
   [**2150-8-10**] urine cx: pending
   [**2150-8-9**] wound swab gram stain:  2+ GNR and GPR
   [**2150-8-9**] C. diff toxin: neg
   [**2150-8-8**] urine cx: pseudomonas
   [**2150-8-10**] ECHO: pending
   [**2150-8-11**] CXR: increased LLL opacification, atelectasis vs pneumonia
   Assessment and Plan
   55yo man POD #8 s/p colovesical fistula repair here with fever,
   hypotension, elevated lactate, and stool in foley.  Presented to ICU
   for possible urosepsis vs anastomotic leak.  Pt returned to OR and
   underwent laparotomy  with diverting colostomy and irrigation to treat
   open anastomosis.
   # Sepsis: has source (intraperitoneal feces) and SIRS criteria (RR, HR,
   temp, WBC).  Aggressively resuscitated pt received estimated 14L in 24
   hours.
   - New goal CVL [**9-1**]
   - Doing well off pressors; goal MAP>65; increased UOP  30-40cc/hr
   - treat infection with meropenem (for likely resistant pseudomonas) and
   vancomycin (for prior hospitalizations and possible wound involvement)
   -continue to monitor UOP and CVP
   -- will monitor bladder pressures postop. to screen for abdominal
   compartment syndrome. Goal pressure<20.  If elevating, will notify
   surgery.
   # Postop resp management: patient will return from OR intubated.
   - Pt was switched to pressure support ventilation ([**5-28**]) this am
   resulting in high RR and high tidal volumes.  Given low likelihood of
   extubation today will return pt to fully supported ventilation mode
   (i.e volume control).
   - continue fentanyl and versed for sedation and pain.
   - famotidine
   - mouthcare and HOB elevation
   # Cover broadly: continue meropenem per ID recs, continue vanco for
   bowel/skin flora.
   -          new bandemia today (14%)
   -          New ? LLL infiltrate
   -          consider broadening coverage for fungal
   .# Anemia: will trend hct.  Has been 28-32 last few days.  Goal hct>25
   in setting of OR
   - active T and S
   # HTN: will hold atenolol in setting of possible HD instability
   # DM: HISS periop
   # Hyperchol: statin
   # Pain control: continue fentanyl/versed
   .# Proph: boots, HISS, mouth care, H2blocker
   .# FEN: NPO with IVF
   # Access: 2 PIVs, CVL, aline.
   # Code: full, discussed
   # Contact: wife HCP [**Telephone/Fax (1) 3722**]
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2150-8-9**] 06:45 PM
   Multi Lumen - [**2150-8-9**] 07:30 PM
   Arterial Line - [**2150-8-9**] 11:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-08-11 11:11:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2150-8-10**] 10:57 AM
   -Good response to initial voume resuscitation with pressors D/C's and
   CVP stabilized at 10-12mmHg
   -Low grade temps only
   -Patient to PSV this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-8-10**] 07:58 AM
   Meropenem - [**2150-8-11**] 12:04 AM
   Vancomycin - [**2150-8-11**] 09:30 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-8-11**] 08:07 AM
   Fentanyl - [**2150-8-11**] 09:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-11**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.9
   HR: 81 (73 - 87) bpm
   BP: 102/65(81) {83/47(64) - 135/65(86)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109 kg (admission): 98 kg
   Height: 68 Inch
   CVP: 7 (6 - 318)mmHg
   CO/CI (Fick): (7.1 L/min) / (3.4 L/min/m2)
   Bladder pressure: 11 (11 - 15) mmHg
   Mixed Venous O2% Sat: 64 - 64
   Total In:
                                                                 14,286 mL
                                                                  1,441 mL
   PO:
   TF:
   IVF:
                                                                 13,411 mL
                                                                  1,441 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                  1,369 mL
                                                                    850 mL
   Urine:
                                                                    537 mL
                                                                    420 mL
   NG:
                                                                    400 mL
                                                                    375 mL
   Stool:
   Drains:
                                                                    432 mL
                                                                     55 mL
   Balance:
                                                                 12,917 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 462 (462 - 535) mL
   RR (Set): 16
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   Plateau: 24 cmH2O
   SpO2: 94%
   ABG: ///20/
   Ve: 13.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : rare)
   Abdominal: Soft, Clean perimeter to dressing
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   372 K/uL
   79 mg/dL
   3.0 mg/dL
   20 mEq/L
   4.5 mEq/L
   29 mg/dL
   107 mEq/L
   137 mEq/L
   24.9 %
   10.0 K/uL
        [image002.jpg]
                             [**2150-8-10**]  12:15 AM
                             [**2150-8-10**]  12:49 AM
                             [**2150-8-10**]  02:36 AM
                             [**2150-8-10**]  02:58 AM
                             [**2150-8-10**]  06:00 AM
                             [**2150-8-10**]  06:14 AM
                             [**2150-8-10**]  02:12 PM
                             [**2150-8-11**]  05:06 AM
                             [**2150-8-11**]  09:00 AM
                             [**2150-8-11**]  09:10 AM
   WBC
   9.2
   11.5
   8.1
   10.0
   Hct
   27.9
   23.9
   29.9
   27.7
   25.8
   24.9
   Plt
   [**Telephone/Fax (3) 3751**]72
   Cr
   1.4
   1.7
   2.2
   3.0
   TCO2
   21
   21
   22
   Glucose
   135
   124
   115
   85
   79
   Other labs: PT / PTT / INR:15.5/39.1/1.4, ALT / AST:[**10-10**], Alk Phos / T
   Bili:41/0.6, Differential-Neuts:70.0 %, Band:14.0 %, Lymph:10.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL,
   LDH:140 IU/L, Ca++:6.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR [**2150-8-11**]
   -Substantial increase in left sided pulmonary opacities--likely left
   lower lobe collapse and possible pleural effusion posterior to it.
   Assessment and Plan
   55 yo male admit with post operative sepsis now showing a good response
   to initial resuscitation and actually has tolerated wean in ventilator
   support with move to PSV and decrease in levels of PEEP stability of
   oxygenation is maintained.
   1)Sepsis-Off pressors, Lactate decreased, Urine output improving to
   30cc/hr
   -Vancomycin--will follow up trough
   -Meropenem
   -IVF bolus if needed
given low urine output would consider move to
   bolus for low urine volume
   -Bandemia is of concern
will continue with current antibiotics and
   evaluate for alternative source and follow exam.
   -Will follow exam and consider repeat of CT imaging if worsening seen
   -In the interim there is a real concern for possible
   VRE/Fungal/Atypical
   2)Respiratory Failure-he does have some favorable mechanics and has
   improved oxygenation, however he retains a baseline minute ventilation
   requirement of 12.5 lpm to maintain adequate ventilation.  This
   increased demand is of concern for patient capacity to compensate post
   extubation.
   -Worsening pulmonary infiltrate
   -Continued poor urine output should be expected to resolve prior to
   extubation
   -Low grade fevers and bandemia does raise the question of pulmonary
   source of infection/fever but abdominal sourcre remains most likely.
   -Continue full ventilatory support today given multiple medical issues
   still continuing to resolve.
   3)Acute Renal Failure-Significant rise in creatinine with some slow
   return of urine flow.  Is most likely pre-renal source of insult with
   sepsis and hypotension.
   -Continue with volume support
   -F/U Creat on next check and will need to consider renal ultrasound.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2150-8-9**] 06:45 PM
   Multi Lumen - [**2150-8-9**] 07:30 PM
   Arterial Line - [**2150-8-9**] 11:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2150-08-12 06:37:00 Physician Resident Progress Note
Chief Complaint: septic shock
   enterovesicular fistula s/p repair with subsequent anastomotic leak
   repeat laparotomy with diverting colostomy
   24 Hour Events:
   Extubated yesterday
   Out of bed to Chair
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-8-10**] 07:58 AM
   Vancomycin - [**2150-8-11**] 09:30 AM
   Meropenem - [**2150-8-12**] 12:10 AM
   Infusions:
   Fentanyl - 10 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-8-12**] 12:10 AM
   Fentanyl - [**2150-8-12**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-12**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 82 (78 - 103) bpm
   BP: 121/68(76) {113/57(72) - 137/88(94)} mmHg
   RR: 24 (19 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 98 kg
   Height: 68 Inch
    CVP: 16 (6 - 17)mmHg
   Total In:
                                                                  1,627 mL
                                                                    139 mL
   PO:
   TF:
   IVF:
                                                                  1,627 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    590 mL
   Urine:
                                                                  1,180 mL
                                                                    460 mL
   NG:
                                                                    850 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                     85 mL
                                                                     30 mL
   Balance:
                                                                   -523 mL
                                                                   -451 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 535) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 0 cmH2O
   SpO2: 92%
   ABG: 7.34/39/91//-4
   Ve: 13.8 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Gen: NAD, breathing comfortably on 3L NC, aaox3, denies pain
   CV: RRR, no M/R/G
   Lungs: nonlabored breathing on 3L NC, CTA B anteriorly, lateral
   crackles at bases, posterior exam deferred
   Abd: serosanguinous ostomy output, minimal gas in ostomy bag, decreased
   bs, dressing c/d/I, pain only with movement
   Ext: warm, dry, 2+ distal pulses
   Labs / Radiology
   436 K/uL
   8.5 g/dL
   79 mg/dL
   3.0 mg/dL
   20 mEq/L
   4.5 mEq/L
   29 mg/dL
   107 mEq/L
   137 mEq/L
   26.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2150-8-10**]  02:36 AM
                             [**2150-8-10**]  02:58 AM
                             [**2150-8-10**]  06:00 AM
                             [**2150-8-10**]  06:14 AM
                             [**2150-8-10**]  02:12 PM
                             [**2150-8-11**]  05:06 AM
                             [**2150-8-11**]  09:00 AM
                             [**2150-8-11**]  09:10 AM
                             [**2150-8-11**]  02:27 PM
                             [**2150-8-12**]  05:15 AM
   WBC
   11.5
   8.1
   10.0
   14.1
   Hct
   23.9
   29.9
   27.7
   25.8
   24.9
   26.7
   Plt
   483
   392
   372
   436
   Cr
   1.7
   2.2
   3.0
   TCO2
   21
   22
   22
   Glucose
   124
   115
   85
   79
   Other labs: PT / PTT / INR:15.5/39.1/1.4, ALT / AST:[**10-10**], Alk Phos / T
   Bili:41/0.6, Differential-Neuts:88.7 %, Band:14.0 %, Lymph:6.9 %,
   Mono:4.0 %, Eos:0.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL,
   LDH:140 IU/L, Ca++:6.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   7/20-21/08  Lactate: 4.2-1.6
   [**2150-8-10**] blood cx: pending
   [**2150-8-10**] urine cx: pending
   [**2150-8-9**] wound swab gram stain:  2+ GNR and GPR
   [**2150-8-9**] C. diff toxin: neg
   [**2150-8-8**] urine cx: pseudomonas
   [**2150-8-10**] ECHO: pending
   [**2150-8-11**] CXR: increased LLL opacification, atelectasis vs pneumonia
   [**2150-8-12**] vanc level: 16.8
   Urine [**2150-8-11**]:
   Rare mucus
   No eosinophils
   BUN 341
   Cr 80
   Na 63
   Cl 52
   Osmol 407
   WBC 9
   RBC 7
   Yeast none
   Bacteria Rare
   Epi 0
   Blood: mod
   Nitrite: Neg
   Protein: 30
   Glucose: Neg
   Ketone: 10
   Bili: neg
   Urobili: neg
   pH: 5.5
   Leuk: neg
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 DIABETES MELLITUS (DM), TYPE II
   55yo man on POD #6 s/p colovesical fistula repair presented to ICU with
   fever, hypotension, elevated lactate, and stool in foley.  Presented to
   ICU for possible urosepsis vs anastomotic leak.  Pt returned to OR
   ([**2150-8-9**]) and underwent laparotomy  with diverting colostomy and
   irrigation to treat open anastomosis.
   # Sepsis: has source (intraperitoneal feces) and SIRS criteria (RR, HR,
   temp, WBC).  Aggressively resuscitated pt received estimated 14L in 24
   hours.
   - Goal CVP 8-12; currently at 10
   - Doing well off pressors; goal MAP>65; increased UOP  30-40cc/hr
   - treat infection with meropenem (for likely resistant pseudomonas) and
   vancomycin (for prior hospitalizations and possible wound involvement)
   - check vanc level daily; dose daily based on level in setting of renal
   failure; can continue meropenem at current dose
   -continue to monitor UOP and CVP
   - no longer monitoring bladder pressure; good UOP; has not required
   additional fluids
   # Postop resp management: patient will return from OR intubated.
   - Pt now extubated and doing well on 3L NC; continue chest PT; try
   saline nebs to induce sputum for culture
   - continue fentanyl (switch gtt to bolus)  discontinued versed
   - famotidine
   # Cover broadly: continue meropenem per ID recs, continue vanco for
   bowel/skin flora.
   -          no bandemia today, afebrile today
   -          CXR:  LLL infiltrate persists (no progression); try saline
   nebs to induce sputum cx; follow fungal cx
   -          consider broadening coverage for fungal if becomes febrile,
   elevated wbc or evidence on gram stain or cx
   # ARF: creatinine increased from 1.7 to 3.6; likely ATN subsequent to
   hypotension during septic shock; FeNa = 1.7 because > 1 less likely
   prerenal; No eosinophils in urine, so less likely AIN; currently good
   UOP
   - Will hold off on diuresis today
   - continue to monitor UOP
   - Consult renal
   - Order renal Ultrasound
   - will renally adjust meds
   .# Anemia: will trend hct.  Has been 28-32 last few days.  Goal hct>25
   in setting of OR
   - currently stable will monitor daily
   - active T and S
   # HTN: will hold atenolol in setting of possible HD instability
   # DM: HISS
   # Hyperchol: statin
   # Pain control: continue fentanyl switch from gtt to bolus
   .# Proph: boots, HISS, mouth care, H2blocker
   .# FEN: NPO with IVF; consider starting liquid diet when evidence of
   gas in ostomy bag
   # Access: 2 PIVs, CVL, aline.
   # Code: full, discussed
   # Contact: wife HCP [**Telephone/Fax (1) 3722**]
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-8-9**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-08-12 10:07:00 Physician Attending Progress Note
Chief Complaint: peritonitis requiring emergent xlab
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55M with diverticulites, enterovesic fistula, s/p explap and colectomy
   for peritonitis.
   24 Hour Events:
 URINE CULTURE - At [**2150-8-11**] 04:00 PM
 SPUTUM CULTURE - At [**2150-8-11**] 05:15 PM
 INVASIVE VENTILATION - STOP [**2150-8-11**] 06:00 PM
 ARTERIAL LINE - STOP [**2150-8-11**] 06:28 PM
   extubated yesterday in the evening. doing well.
   rising creatinine, non-oliguric.
   afebrile overnight.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-8-10**] 07:58 AM
   Vancomycin - [**2150-8-11**] 09:30 AM
   Meropenem - [**2150-8-12**] 12:10 AM
   Infusions:
   Fentanyl - 10 mcg/hour
   Other ICU medications:
   Fentanyl - [**2150-8-12**] 12:10 AM
   Heparin Sodium (Prophylaxis) - [**2150-8-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight [**Known lastname 3723**]
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Signs or concerns for abuse : No
   Pain: [**3-24**] Mild
   Pain location: abdomen
   Flowsheet Data as of  [**2150-8-12**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.1
C (97
   HR: 81 (76 - 103) bpm
   BP: 128/61(76) {113/57(72) - 137/88(94)} mmHg
   RR: 22 (19 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 98 kg
   Height: 68 Inch
   CVP: 11 (6 - 17)mmHg
   Total In:
                                                                  1,627 mL
                                                                    159 mL
   PO:
   TF:
   IVF:
                                                                  1,627 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    860 mL
   Urine:
                                                                  1,180 mL
                                                                    730 mL
   NG:
                                                                    850 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                     85 mL
                                                                     30 mL
   Balance:
                                                                   -523 mL
                                                                   -701 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 474) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 0 cmH2O
   SpO2: 94%
   ABG: 7.34/39/91/20/-4
   Ve: 13.8 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant), (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: ), anterior only
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, on opiates
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed, awake, alert
   Labs / Radiology
   8.5 g/dL
   436 K/uL
   91 mg/dL
   3.6 mg/dL
   20 mEq/L
   5.0 mEq/L
   37 mg/dL
   108 mEq/L
   142 mEq/L
   26.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2150-8-10**]  02:36 AM
                             [**2150-8-10**]  02:58 AM
                             [**2150-8-10**]  06:00 AM
                             [**2150-8-10**]  06:14 AM
                             [**2150-8-10**]  02:12 PM
                             [**2150-8-11**]  05:06 AM
                             [**2150-8-11**]  09:00 AM
                             [**2150-8-11**]  09:10 AM
                             [**2150-8-11**]  02:27 PM
                             [**2150-8-12**]  05:15 AM
   WBC
   11.5
   8.1
   10.0
   14.1
   Hct
   23.9
   29.9
   27.7
   25.8
   24.9
   26.7
   Plt
   483
   392
   372
   436
   Cr
   1.7
   2.2
   3.0
   3.6
   TCO2
   21
   22
   22
   Glucose
   124
   115
   85
   79
   91
   Other labs: PT / PTT / INR:15.5/39.1/1.4, ALT / AST:[**10-10**], Alk Phos / T
   Bili:41/0.6, Differential-Neuts:88.7 %, Lymph:6.9 %, Mono:4.0 %,
   Eos:0.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL, LDH:140 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Imaging: cxr: LLL process slightly improved compared to yesterday;
   otherwise no change
   Assessment and Plan
   55M presented with septic shock from pseudomonal peritonitis in the
   setting of s/p xlap and colectomy, doing well on broad spectrum
   antibiotics, now extubated. pt does heave persistent LLL opacity and
   now with worsening acute renal failure of unclear etiology. ATN most
   likely given recent sepsis and hypotension; benign urine sediment
   reassuring.
   -continue broad spectrum antibiotics; renal doseing, followed by id
   -incentive spiromety, chest pt and saline nebs to encourage
   expectoration
   -decrease opiate doseing
   -will discuss with surgery about advancing diet
   -check renal ultrasound
   -renal consult for worsening renal failure without a clear explanation
   -per surgery, drains to stay in place until tomorrow and ngt to be
   pulled today
   I was present with the team for discussion of patient and saw him
   independently for examination.  I would agree with the above note in
   full and would add
   1)Sepsis
Do have a picture of improvement with correction of
   intra-abdominal process.  Do not see new evolution of insult but we do
   have low grade fever.  In consultation with ID, will
   -Continue with vanco dosing by level
   -Meropenem
   -Fungal cultures sent
   2)Respiratory Failure
patient with successful extubation
   -Will maintain pulmonary toilet with full persistent left lower lobe
   collapse likely secondary to small mucus plug.
   -Chest PT
   -OOB to chair as possible.
   3)Acute Renal Failure-
   -Likely ATN in the setting of sepsis as FENa is relatively elevated.
   -Appreciate renal consultation support
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2150-8-9**] 07:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2150-08-13 07:31:00 Physician Resident Progress Note
Chief Complaint: septic shock, ARF
   24 Hour Events:
   [**8-12**] Renal U/S
 no hydronephrosis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-8-10**] 07:58 AM
   Vancomycin - [**2150-8-12**] 10:30 AM
   Meropenem - [**2150-8-12**] 12:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-8-12**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2150-8-12**] 10:00 PM
   Morphine Sulfate - [**2150-8-13**] 05:00 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt c/o thirst, mild incisional pain worse with deep
   inspiration; no fever, chills, CP, SOB, cough, N/V/D
   Flowsheet Data as of  [**2150-8-13**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 90 (71 - 90) bpm
   BP: 158/71(92) {111/58(71) - 158/87(93)} mmHg
   RR: 29 (18 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 98 kg
   Height: 68 Inch
    CVP: 11 (5 - 13)mmHg
   Total In:
                                                                    533 mL
                                                                     20 mL
   PO:
   TF:
   IVF:
                                                                    533 mL
                                                                     20 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                  1,250 mL
   Urine:
                                                                  1,860 mL
                                                                    830 mL
   NG:
                                                                    480 mL
                                                                    400 mL
   Stool:
   Drains:
                                                                     60 mL
                                                                     20 mL
   Balance:
                                                                 -1,887 mL
                                                                 -1,230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91-99% on 4L NC
   Physical Examination
   GEN: Awake, alert, NAD
   CV: RRR nl S1S2 no m/r/g
   PULM: crackles at left base, otherwise clear anteriorly
   ABD: soft, distended NT to light palp hypoactive BS; ostomy site c/d/i
   EXT: warm, dry +PP 1+ pitting edema
   Labs / Radiology
   550 K/uL
   8.4 g/dL
   117 mg/dL
   3.5 mg/dL
   21 mEq/L
   4.8 mEq/L
   42 mg/dL
   110 mEq/L
   144 mEq/L
   26.0 %
   12.6 K/uL
                             [**2150-8-10**]  06:00 AM
                             [**2150-8-10**]  06:14 AM
                             [**2150-8-10**]  02:12 PM
                             [**2150-8-11**]  05:06 AM
                             [**2150-8-11**]  09:00 AM
                             [**2150-8-11**]  09:10 AM
                             [**2150-8-11**]  02:27 PM
                             [**2150-8-12**]  05:15 AM
                             [**2150-8-12**]  02:44 PM
                             [**2150-8-13**]  05:17 AM
   WBC
   11.5
   8.1
   10.0
   14.1
   12.6
   Hct
   29.9
   27.7
   25.8
   24.9
   26.7
   26.0
   Plt
   483
   392
   372
   436
   550
   Cr
   1.7
   2.2
   3.0
   3.6
   3.6
   3.5
   TCO2
   22
   22
   Glucose
   124
   115
   85
   79
   91
   109
   117
   Other labs: PT / PTT / INR:15.5/39.1/1.4, ALT / AST:[**10-10**], Alk Phos / T
   Bili:41/0.6, Differential-Neuts:87.3 %, Band:14.0 %, Lymph:7.0 %,
   Mono:4.6 %, Eos:0.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL,
   LDH:140 IU/L, Ca++:7.8 mg/dL, Mg++:2.8 mg/dL, PO4:4.6 mg/dL
   [**8-11**] Urine legionella AG
   [**8-11**] Sputum Cx
 contaminated with oropharyngeal flora
   [**8-12**] Blood Cx - NGTD
   Assessment and Plan
   55 y/o M POD #7 s/p colovesical fistula repair, POD #4 s/p diverting
   colostomy and irrigation for peritonitis a/w septic shock, improving
   clinically following extubation.
   .
   # Septic shock - clinically improving; afebrile x 24 hr, HD stable,
   extubated [**8-11**] now on NC, leukocytosis resolving
   -cont. vanco/[**Last Name (un) 430**] (day [**5-4**]), dose daily according to changing renal
   function
   .
   # ARF: multifactorial ATN in the setting of sepsis, HoTN, dye load; Cr
   remains elevated, but adequate UOP; no hydro by U/S
   -appreciate renal recs
   -re-dose meds daily
   -no indication for dialysis at this time
    .
   # Anemia: will trend hct.  Has been 28-32 last few days.  Goal hct>25
   in setting of OR
   - currently stable will monitor daily
   - active T and S
   .
   # HTN: will hold atenolol in setting of possible HD instability
   .
   # DM: HISS
   .
   # Hyperchol: may restart statin
   .
   # Pain control: continue fentanyl switch from gtt to bolus
   .
   # Proph: SQH, ISS, PPI
    .
   # FEN:
   -defer to surgery team re: diet, would consider starting liquid diet
   today
    .
   # Access: 2 PIVs, R IJ
   .
   # Code: FULL
   .
   # Contact: wife HCP [**Telephone/Fax (1) 3722**]
   .
   # Dispo: Stable for transfer to floor
   ICU Care
   Nutrition: NPO, advance to clear liquids
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2150-8-9**] 07:30 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   Code status: Full code
   Disposition: Stable for transfer to floor

2150-08-13 11:23:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2150-8-12**] 02:08 PM
   renal
 BLOOD CULTURED - At [**2150-8-12**] 03:00 PM
   including fungal from cvl and venipuncture
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-8-12**] 10:30 AM
   Meropenem - [**2150-8-12**] 12:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2150-8-13**] 05:00 AM
   Pantoprazole (Protonix) - [**2150-8-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2150-8-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-13**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 72 (71 - 90) bpm
   BP: 138/60(81) {111/58(71) - 158/75(92)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 98 kg
   Height: 68 Inch
   CVP: 12 (5 - 13)mmHg
   Total In:
                                                                    533 mL
                                                                     80 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                    533 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                  1,510 mL
   Urine:
                                                                  1,860 mL
                                                                  1,090 mL
   NG:
                                                                    480 mL
                                                                    400 mL
   Stool:
   Drains:
                                                                     60 mL
                                                                     20 mL
   Balance:
                                                                 -1,887 mL
                                                                 -1,430 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : rare)
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   550 K/uL
   117 mg/dL
   3.5 mg/dL
   21 mEq/L
   4.8 mEq/L
   42 mg/dL
   110 mEq/L
   144 mEq/L
   26.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2150-8-10**]  06:00 AM
                             [**2150-8-10**]  06:14 AM
                             [**2150-8-10**]  02:12 PM
                             [**2150-8-11**]  05:06 AM
                             [**2150-8-11**]  09:00 AM
                             [**2150-8-11**]  09:10 AM
                             [**2150-8-11**]  02:27 PM
                             [**2150-8-12**]  05:15 AM
                             [**2150-8-12**]  02:44 PM
                             [**2150-8-13**]  05:17 AM
   WBC
   11.5
   8.1
   10.0
   14.1
   12.6
   Hct
   29.9
   27.7
   25.8
   24.9
   26.7
   26.0
   Plt
   483
   392
   372
   436
   550
   Cr
   1.7
   2.2
   3.0
   3.6
   3.6
   3.5
   TCO2
   22
   22
   Glucose
   124
   115
   85
   79
   91
   109
   117
   Other labs: PT / PTT / INR:15.5/39.1/1.4, ALT / AST:[**10-10**], Alk Phos / T
   Bili:41/0.6, Differential-Neuts:87.3 %, Band:14.0 %, Lymph:7.0 %,
   Mono:4.6 %, Eos:0.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL,
   LDH:140 IU/L, Ca++:7.8 mg/dL, Mg++:2.8 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR--CVL to RA, left lower lobe opacity continues without
   change
   Assessment and Plan
   55 yo male now s/p reasonable response to antibacterial therapy and
   volume support for sepsis in the setting of anastamotic leak.  He now
   had improvement in hemodynamics and respiratory status does still
   remain at issue with some suggestion of left lower lobe compromise.
   Will
   Sepsis-
   Continue-Vanco/Meropenem
   Follow up culture results
   Respiratory Failure-
   Up OOB and ambulation
   IC 10x/hr while awake
   Chest PT to continue
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2150-8-9**] 07:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes